US05658935
b) Synthesis of 4-(4-pyridyl)-3,3-bisethoxycarbonylbutyric acid
8.75 g of ethyl 4-(4-pyridyl)-3,3-bisethoxycarbonylbutyrate are stirred at 50°-60° C. in 500 ml of 6N HCl for 2 h. The mixture is then concentrated in vacuo and allowed to react again at 50°-60° C. with 500 ml of 6N HCl for 2 h. It is then concentrated to dryness in vacuo and redistilled twice using a little toluene. The residue is taken up in a little water and freeze-dried.

reactant | ethyl 4-(4-pyridyl)-3,3-bisethoxycarbonylbutyrate | 8.75 g | N1=CC=C(C=C1)CC(CC(=O)OCC)(C(=O)OCC)C(=O)OCC | C17H23NO6
solvent | HCl | 6N, 500 ml | Cl | ClH
product | 4-(4-pyridyl)-3,3-bisethoxycarbonylbutyric acid | N1=CC=C(C=C1)CC(CC(=O)O)(C(=O)OCC)C(=O)OCC | C15H19NO6
